US04578381
In a four-necked flask, there were placed 175 ml of water, 10.5 g of ferrous sulfate heptahydrate, 0.5 ml of concentrated hydrochloric acid and 6 g of o-nitrobenzaldehyde, then the flask was heated at 90° C. on a water-bath. Into the reaction mixture in the flask, 25 ml of a concentrated ammonia water was added in one-time with stirring, further 30 ml of ammonia water was added in three times in every 2 minutes. After finished the addition of ammonia water, the reaction mixture was subjected to steam distillation immediately. The distillate in an amount of 250 ml was collected in two times separately. The first distillate was cooled and the crystals precipitated were collected by filtration. The mother liquor obtained from the first distillate was combined with second distillate, and this mixture was saturated with sodium chloride, then was extracted with ether extract was dried with sodium sulfate, and ether was removed by distillation. The residue thus obtained was combined with the crystals precipitated from the first distillate and the mixture was dried to obtain 2.9 g of o-aminobenzaldehyde in the form of yellowish flake-like crystals.

reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | o-nitrobenzaldehyde | 6 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | ammonia water | 25 ml | O.N
reactant | ammonia water | 30 ml | O.N
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 175 ml | O | H2O
product | o-aminobenzaldehyde | 2.9 g | NC1=C(C=O)C=CC=C1 | C7H7NO
